US05760050
8-Methoxy-3-pyridin-2-ylmethyl-1,2,3,4-tetrahydro-chromeno[3,4-c]pyridin-5-one
Prepared by the procedure of Example 3 from 8-methoxy-1,2,3,4-tetrahydro-chromeno[3,4-c]pyridin-5-one and 2-pyridinecarboxaldehyde. Yield 25%; mp 140°-142° C.

reactant | 8-methoxy-1,2,3,4-tetrahydro-chromeno[3,4-c]pyridin-5-one | COC=1C=CC2=C(C1)OC(C=1CNCCC12)=O | C13H13NO3
reactant | 2-pyridinecarboxaldehyde | N1=C(C=CC=C1)C=O | C6H5NO
product | 8-Methoxy-3-pyridin-2-ylmethyl-1,2,3,4-tetrahydro-chromeno[3,4-c]pyridin-5-one | Yield 25% | COC=1C=CC2=C(C1)OC(C=1CN(CCC12)CC1=NC=CC=C1)=O | C19H18N2O3
